US07601726B2
Sodium hydride (98 mg of 60% weight in mineral oil, 2.45 mmol) was washed with hexanes and added to 5 mL of dry DMF, and the mixture was placed under nitrogen atmosphere and cooled to 0° C. 4-Bromo-6-(2,4-difluoro-phenoxy)-1H-indazole (0.50 g, 1.54 mmol) dissolved in 5 mL dry DMF was added to the reaction mixture. The reaction mixture was stirred for 30 minutes at room temperature, then cooled to 0° C. again. (2-Chloromethoxy-ethyl)-trimethyl-silane (0.386 g, 2.32 mmol) was added, and the reaction mixture was stirreed for 21 hours at room temperature under nitrogen. The reaction mixture was partitioned between water and ethyl acetate, and the organic phase was separated, washed with brine and water, dried (MgSO4), filtered and concentrated under reduced pressure. The residue was chromatographed through silica (0%-25% EtOAc in hexanes) to give 0.181 g of 4-bromo-6-(2,4-difluoro-phenoxy)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indazole, MS(M+H)=455.

reactant | Sodium hydride | 2.45 mmol, 98 mg | [H-].[Na+]
reactant | 4-Bromo-6-(2,4-difluoro-phenoxy)-1H-indazole | 1.54 mmol, 0.50 g | BrC1=C2C=NNC2=CC(=C1)OC1=C(C=C(C=C1)F)F | C13H7BrF2N2O
reactant | (2-Chloromethoxy-ethyl)-trimethyl-silane | 2.32 mmol, 0.386 g | ClCOCC[Si](C)(C)C | C6H15ClOSi
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-bromo-6-(2,4-difluoro-phenoxy)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indazole | 0.181 g | BrC1=C2C=NN(C2=CC(=C1)OC1=C(C=C(C=C1)F)F)COCC[Si](C)(C)C | C19H21BrF2N2O2Si
